US08471029B2
Preparation of N-(2,4-di-tert-butyl-5-hydroxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide (1)
4-Oxo-1,4-dihydroquinoline-3-carboxylic acid, 26, (1.0 eq) and 5-amino-2,4-di-tert-butylphenyl methyl carbonate, 32, (1.1 eq) were charged to a reactor. 2-MeTHF (4.0 vol, relative to the acid) was added followed by T3P® 50% solution in 2-MeTHF (1.7 eq). The T3P charged vessel was washed with 2-MeTHF (0.6 vol). Pyridine (2.0 eq) was then added, and the resulting suspension was heated to 47.5+/−5.0° C. and held at this temperature for 8 hours. A sample was taken and checked for completion by HPLC. Once complete, the resulting mixture was cooled to 25.0° C.+/−2.5° C. 2-MeTHF was added (12.5 vol) to dilute the mixture. The reaction mixture was washed with water (10.0 vol) 2 times. 2-MeTHF was added to bring the total volume of reaction to 40.0 vol (˜16.5 vol charged). To this solution was added NaOMe/MeOH (1.7 equiv) to perform the methanolysis. The reaction was stirred for no less than 1.0 hour, and checked for completion by HPLC. Once complete, the reaction was quenched with 1 N HCl (10.0 vol), and washed with 0.1 N HCl (10.0 vol). The organic solution was polish filtered to remove any particulates and placed in a second reactor. The filtered solution was concentrated at no more than 35° C. (jacket temperature) and no less than 8.0° C. (internal reaction temperature) under reduced pressure to 20 vol. CH3CN was added to 40 vol and the solution concentrated at no more than 35° C. (jacket temperature) and no less than 8.0° C. (internal reaction temperature) to 20 vol. The addition of CH3CN and concentration cycle was repeated 2 more times for a total of 3 additions of CH3CN and 4 concentrations to 20 vol. After the final concentration to 20 vol, 16.0 vol of CH3CN was added followed by 4.0 vol of H2O to make a final concentration of 40 vol of 10% H2O/CH3CN relative to the starting acid. This slurry was heated to 78.0° C.+/−5.0° C. (reflux). The slurry was then stirred for no less than 5 hours. The slurry was cooled to 0.0° C.+/−5° C. over 5 hours, and filtered. The cake was washed with 0.0° C.+/−5.0° C. CH3CN (5 vol) 4 times. The resulting solid (compound 1) was dried in a vacuum oven at 50.0° C.+/−5.0° C. 1H NMR (400 MHz, DMSO-d6) δ 12.8 (s, 1H), 11.8 (s, 1H), 9.2 (s, 1H), 8.9 (s, 1H), 8.3 (s, 1H), 7.2 (s, 1H), 7.9 (t, 1H), 7.8 (d, 1H), 7.5 (t, 1H), 7.1 (s, 1H), 1.4 (s, 9H), 1.4 (s, 9H).

reactant | 4-Oxo-1,4-dihydroquinoline-3-carboxylic acid | O=C1C(=CNC2=CC=CC=C12)C(=O)O | C10H7NO3
reactant | 5-amino-2,4-di-tert-butylphenyl methyl carbonate | C(OC1=C(C=C(C(=C1)N)C(C)(C)C)C(C)(C)C)(OC)=O | C16H25NO3
reactant | 2-MeTHF | CC1CCCO1 | C5H10O
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | 2-MeTHF | 1.7 eq | CC1CCCO1 | C5H10O
reactant | Pyridine | 2.0 eq | N1=CC=CC=C1 | C5H5N
reactant | NaOMe MeOH | 1.7 equiv | C[O-].[Na+].CO
product | N-(2,4-di-tert-butyl-5-hydroxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | C(C)(C)(C)C1=C(C=C(C(=C1)C(C)(C)C)O)NC(=O)C1=CNC2=CC=CC=C2C1=O | C24H28N2O3
